US06890947B2
In analogy to the procedure described in example 44, rac-2-ethoxy-3-(1H-indol-6-yl)-propionic acid ethyl ester (preparation 11) was reacted with 4-chloromethyl-2-(4-isopropyl-phenyl)-5-methyl-oxazole to give rac-2-ethoxy-3-{1-[2-(4-isopropyl-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-6-yl}-propionic acid as light yellow viscous oil.

reactant | rac-2-ethoxy-3-(1H-indol-6-yl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C2C=CNC2=C1)OCC)=O | C15H19NO3
reactant | 4-chloromethyl-2-(4-isopropyl-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(C)C | C14H16ClNO
product | rac-2-ethoxy-3-{1-[2-(4-isopropyl-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-6-yl}-propionic acid | C(C)OC(C(=O)O)CC1=CC=C2C=CN(C2=C1)CC=1N=C(OC1C)C1=CC=C(C=C1)C(C)C | C27H30N2O4
